US05166367
(S)-7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
(S)-2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-methanamine hydrochloride (11.5 g, 49.8 mmole), 7-(3-bromopropoxy)coumarin (14.2 g, 50.0 mmole), and diisopropylethylamine (12 ml, 68.9 mmole) were combined in 350 ml of DMF and heated at 90° C. for 24 hours uunder a nitrogen atmosphere. The solvent was then removed in vacuum and replaced with 300 ml of dichloromethane. Upon addition of an equal volume of saturated aqueous sodium bicarbonate, a white solid precipitated. This was filtered and redissolved in 550 ml of warm methanol and 35 ml of 4N isopropanolic HCl was added. The solution was boiled on a hot plate and the solvent gradually replaced with isopropanol. Upon cooling, 0.54 g of the title compound precipitated as a white solid, monohydrochloride, quarter hydrate, m.p. 225°-227° C. Subsequent crops yielded as additional 6.1 g of product.

reactant | (S)-2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-methanamine hydrochloride | 49.8 mmole, 11.5 g | Cl.COC=1C=CC2=C(O[C@H](CO2)CN)C1
reactant | 7-(3-bromopropoxy)coumarin | 50.0 mmole, 14.2 g | BrCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11BrO3
reactant | diisopropylethylamine | 68.9 mmole, 12 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
product | (S)-7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 6.1 g | COC=1C=CC2=C(O[C@H](CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C1 | C22H23NO6
